US06339099B1
To a solution of 1-(4-fluoro-3-cyanophenyl)-3-trifluoromethyl-5-(2-furyl)pyrazole (4.0 g, 12.5 mmol) in acetonitrile (30 mL) was added carbon tetrachloride (30 mL), ruthenium chloride (0.4 g) and a solution of sodium periodate (11.9 g, 56.1 mmol) in water (45 mL). The reaction is stirred at room temperature overnight. The next day the reaction mixture was filtered through celite. The filtrate was concentrated and partitioned between ethyl acetate and HCl (1N). The organic phase was washed with water, dried over sodium sulfate, filtered and concentrated to give 1-(4-fluoro-3-cyanophenyl)-3-trifluoromethyl-5-hydroxycarbonyl pyrazole (2.4 g, 64% yield) as pure compound. MS (ES−): 298 (M−H)− (40%).

reactant | 1-(4-fluoro-3-cyanophenyl)-3-trifluoromethyl-5-(2-furyl)pyrazole | 12.5 mmol, 4.0 g | FC1=C(C=C(C=C1)N1N=C(C=C1C=1OC=CC1)C(F)(F)F)C#N | C15H7F4N3O
reactant | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | sodium periodate | 56.1 mmol, 11.9 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | 45 mL | O | H2O
catalyst | ruthenium chloride | 0.4 g | [Ru](Cl)(Cl)Cl
product | 1-(4-fluoro-3-cyanophenyl)-3-trifluoromethyl-5-hydroxycarbonyl pyrazole | 2.4 g, 64% yield | FC1=C(C=C(C=C1)N1N=C(C=C1C(=O)O)C(F)(F)F)C#N | C12H5F4N3O2
